* PySpice Studio Netlist


R1 1 0 1k
V1 1 0 PULSE(0 5 10m 1n 1n 10m 20m)

.tran 0.1m 80m 0
.control
run
set color0 = white
set color1 = black
set color2 = red
set color3 = red
set xbrushwidth = 2
plot v(1) title 'Graph Window 1'
plot i(V1) title 'Graph Window 2'
.endc
.end